US04243406
A mixture of methyl-2-(3'-trifluoromethylbenzoyl)-3-ethoxypropenoate (8.55 g.; 0.028 mol.) in 60 ml. of ethanol and anhydrous sodium acetate (2.5 g.; 0.03 mol.) was treated with hydroxylamine hydrochloride (2.1 g.; 0.03 mol.). The mixture was heated at reflux for 2 hours, cooled to 25° C., and then poured onto 50 g. of ice. The resulting liquid was extracted five times with 40 ml. of methylene chloride. The organic layer was washed with water, sodium bicarbonate, water, dried over sodium sulfate, filtered and concentrated to yield methyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate as an orange oil.

reactant | methyl-2-(3'-trifluoromethylbenzoyl)-3-ethoxypropenoate | 0.028 mol, 8.55 g | COC(C(=COCC)C(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C14H13F3O4
reactant | sodium acetate | 0.03 mol, 2.5 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.03 mol, 2.1 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | methyl-5-(3'-trifluoromethylphenyl)-4-isoxazolecarboxylate | COC(=O)C=1C=NOC1C1=CC(=CC=C1)C(F)(F)F | C12H8F3NO3
